US09193741B2
Synthesis of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(1-tert-butoxycarbonylpyrrolidin-3-(S)-ylamino)-thiazolo[5,4-d]pyrimidine
To a solution of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-methanesulfonyl-thiazolo[5,4-d]pyrimidine (150 mg, 0.42 mmol) in dichloromethane (10 ml) was added diisopropylethylamine (3.0 mmol, 492 μL) and tert-butyl 3-(S)-aminopyrrolidine-1-carboxylate (2.1 mmol). The reaction mixture was refluxed for 40 hours whereupon the mixture was extracted with a saturated sodium bicarbonate solution. The organic phase was dried over magnesium sulfate and the solvent was removed in vacuo. The resulting residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio gradually ranging from 100% CH2Cl2 to 1% CH3OH in CH2Cl2), yielding the pure title compound (81 mg) which was characterized by its mass spectrum: MS m/z (%): 459 ([M+H]+, 100).

reactant | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-methanesulfonyl-thiazolo[5,4-d]pyrimidine | 0.42 mmol, 150 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)S(=O)(=O)C | C14H13FN4O2S2
reactant | diisopropylethylamine | 3.0 mmol, 492 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tert-butyl 3-(S)-aminopyrrolidine-1-carboxylate | 2.1 mmol | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(1-tert-butoxycarbonylpyrrolidin-3-(S)-ylamino)-thiazolo[5,4-d]pyrimidine | 81 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N[C@@H]2CN(CC2)C(=O)OC(C)(C)C | C22H27FN6O2S
